US04563446
(E)-1-Iodo-7-phenyl-7-(3-pyridyl)-6-heptene (0.6 g, 1.6 mmoles) and phenol (0.2 g, 2.1 mmoles) were dissolved in a mixture of tetrahydrofuran (10 ml) and dimethylformamide (2 ml), and sodium hydride (60% dispersion in oil, 0.1 g, 2.5 mmoles) was added to the solution. The mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added water (20 ml), followed by extraction of the product with ether. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography using isopropyl ether-ethyl acetate (2.1) as the developing solvent to give (E)-1-phenoxy-7-phenyl-7-(3-pyridyl)-6-heptene (0.5 g, 73%) (Compound Id-38) as an oil.

reactant | (E)-1-Iodo-7-phenyl-7-(3-pyridyl)-6-heptene | 1.6 mmoles, 0.6 g | ICCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C18H20IN
reactant | phenol | 2.1 mmoles, 0.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 2.5 mmoles, 0.1 g | [H-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (E)-1-phenoxy-7-phenyl-7-(3-pyridyl)-6-heptene | 0.5 g, 73% | O(C1=CC=CC=C1)CCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C24H25NO
